US08633312B2
2-Chloro-8-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one (10)
For the synthesis of the title compound, 1.0 g (4.87 mmol) of 2-chloro-8-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one, 10 ml of HBr (48%, aqueous) and 10 ml of glacial acetic acid are employed in method L. C15H11ClO2(Mr=258.71)

reactant | 2-chloro-8-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 4.87 mmol, 1.0 g | ClC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC)=O)C=C1 | C16H13ClO2
reactant | HBr | 10 ml | Br | BrH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-8-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | ClC1=CC2=C(C(C3=C(CC2)C=C(C=C3)O)=O)C=C1 | C15H11ClO2
